US06008224
To 3-benzyloxy-1-propanol (1.66 g) dissolved in acetone (10 ml) was added 2N Jones reagent (10 ml) while cooling on ice, and the mixture was stirred for 4 hours at room temperature. Ethyl acetate was added, and the resultant mixture was washed with water. The organic layer was extracted with a sat. aq. K2CO3, and the aqueous layer was washed with ethyl acetate. The washed material was acidified with dilute HCl, again extracted with ethyl acetate, then washed with saturated brine. Drying over anhydrous magnesium sulfate and concentrating under reduced pressure yielded 1.27 g of 3-benzyloxypropionic acid as a colorless crystals.

reactant | 3-benzyloxy-1-propanol | 1.66 g | C(C1=CC=CC=C1)OCCCO | C10H14O2
reactant | Jones reagent | 2N, 10 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-benzyloxypropionic acid | 1.27 g | C(C1=CC=CC=C1)OCCC(=O)O | C10H12O3
